US08242116B2
6-Fluoro-3-(morpholin-3-ylmethyl)-1H-indole
Intermediate 49 (0.726 g, 2.92 mmol) was dissolved in THF (100 mL) and cooled to 0° C. in an ice bath. BH3.Me2S complex (0.61 mL, 6.40 mmol) was added dropwise and the reaction mixture allowed to warm to r.t. The reaction mixture was heated to reflux for 5 h and allowed to cool to r.t. The reaction mixture was quenched with aqueous 2N NaOH (25 mL) and stirred at r.t. for 72 h. The reaction mixture was concentrated in vacuo and dissolved in EtOAc (100 mL), washed with aqueous 2N HCl (2×50 mL) and the combined aqueous fractions basified with solid NaOH pellets (ca 10 g) to raise the pH to pH 12. The aqueous fraction was extracted with EtOAc (3×50 mL) and the combined organic fractions were dried (MgSO4), filtered and concentrated in vacuo. The material from the initial EtOAc extraction was combined with the concentrated material and purified by column chromatography (SiO2, 0-25% [MeOH/DCM/NH4OH (50:50:1)]/DCM) to afford 0.493 g as a mixture of 6-fluoro-3-(morpholin-3-ylmethyl)indoline and title compound (1:3). The resulting mixture was dissolved in THF (7.5 mL) followed by the addition of DDQ (0.102 g, 0.452 mmol). The reaction mixture was irradiated in the microwave at 100° C. for 10 minutes. The reaction mixture was diluted with EtOAc (50 mL), washed with aqueous 2N NaOH (20 mL), brine (20 mL), dried (MgSO4), filtered, concentrated in vacuo and purified by column chromatography (SiO2, 0-25% [MeOH/DCM/NH4OH (50:50:1)]/DCM) to give the title compound (0.430 g, 61%) as an amber oil. δH (CDCl3) 8.04 (1H, br. s), 7.52 (1H, dd, J 8.7 and J 5.3 Hz), 7.00-7.09 (2H, m), 6.85-6.95 (1H, m), 3.90 (1H, dd, J 10.9 and J 2.8 Hz), 3.76-3.85 (1H, m), 3.49-3.61 (1H, m), 3.24-3.36 (1H, m), 3.17-3.03 (1H, m), 2.95-2.76 (3H, m), 2.62 (1H, dd, J 14.3 and J 9.0 Hz), 1.78 (1H, br. s). LCMS (ES+) 235.0 (M+H)+, RT 1.85 minutes (Method 2).

reactant | 6-fluoro-3-(morpholin-3-ylmethyl)indoline | FC1=CC=C2C(CNC2=C1)CC1NCCOC1 | C13H17FN2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-Fluoro-3-(morpholin-3-ylmethyl)-1H-indole | FC1=CC=C2C(=CNC2=C1)CC1NCCOC1 | C13H15FN2O
